### PR TITLE
[Merged by Bors] - feat(RingTheory/Localization, FieldTheory/Galois): refactor fraction field action API and add fixingSubgroup lemmas

### PR DESCRIPTION
**Pull request by xroblot**
Extracts the components of the proof of `IsGaloisGroup.to_isFractionRing`, adding API for working with "Galois extensions of domains". 

Also adds `fixingSubgroup_range_algebraMap` and its ring-domain analogue: if `G` is a Galois group for `L/K` and a subgroup `H` is a Galois group for `L/R`, then the elements of `G` fixing the range of `algebraMap R L` pointwise are exactly the elements of `H`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by riccardobrasca** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/6c90bcfceef0d2c37fe43539a154315d1481a66a?reference=1fd32e21def6607a869ff2e281bc0a3fc6f00d30) for 6c90bcfceef0d2c37fe43539a154315d1481a66a against 1fd32e21def6607a869ff2e281bc0a3fc6f00d30 are in. No significant results found. @riccardobrasca

- ✅ `build//instructions`: **-9.0G** (**-0.01%**)

**Medium changes (1🟥)**

- 🟥 `build/module/Mathlib.NumberTheory.RamificationInertia.Galois//instructions`: **+4.6G** (**+11.47%**)

**Small changes (1✅, 3🟥)**

- ✅ `build/module/Mathlib.CategoryTheory.Profunctor.Basic//instructions`: **-123.5M** (**-1.12%**)
- 🟥 `build/module/Mathlib.FieldTheory.Galois.IsGaloisGroup//instructions`: **+3.2G** (**+4.40%**)
- 🟥 `build/module/Mathlib.RingTheory.Invariant.Basic//instructions`: **+4.4G** (**+7.63%**) (reduced significance based on *//lines)
- 🟥 `build/module/Mathlib.RingTheory.Localization.FractionRing//instructions`: **+4.2G** (**+9.67%**)

**Review by tb65536 — APPROVED** [review]
This all looks reasonable to me. Extracting the fraction field API seems especially useful.

File: Mathlib/RingTheory/Localization/FractionRing.lean [hunk 1]
```diff
@@ -561,6 +561,46 @@ theorem nontrivial_iff_nontrivial : Nontrivial R ↔ Nontrivial S := by
...
+/-- The action of `G` on the fraction field `L` of `B` given by `IsFractionRing.mulSemiringAction`
+is compatible with the embedding `B ⊆ L`. -/
+instance smulDistribClass [SMulCommClass G A B] :
+    letI := mulSemiringAction G A B K L
+    SMulDistribClass G B L :=
+  let := mulSemiringAction G A B K L
+  ⟨fun g b x ↦ by
+    rw [Algebra.smul_def', Algebra.smul_def', smul_mul']
+    congr
+    exact fieldEquivOfAlgEquiv_algebraMap K _ _ _ b⟩
```
Comment (tb65536) [inline Mathlib/RingTheory/Localization/FractionRing.lean]: Does this work?
```suggestion
    apply fieldEquivOfAlgEquiv_algebraMap⟩
```

File: Mathlib/FieldTheory/Galois/IsGaloisGroup.lean [hunk 2]
```diff
@@ -430,6 +403,60 @@ theorem fixedPoints_fixingSubgroup [Finite G] :
...
+  have : IsDomain A := (FaithfulSMul.algebraMap_injective A C).isDomain
+  let K := FractionRing A
+  let L := FractionRing C
+  let : MulSemiringAction G L := IsFractionRing.mulSemiringAction G A C K L
+  have : IsGaloisGroup G K L := IsGaloisGroup.toFractionRing G A C
+  have : IsGaloisGroup H (FractionRing B) L := IsGaloisGroup.toFractionRing H B C
+  suffices h : fixingSubgroup G (Set.range (algebraMap B C)) =
+               fixingSubgroup G (Set.range (algebraMap (FractionRing B) L)) by
+    rw [h]
+    exact fixingSubgroup_range_algebraMap' G K L H (FractionRing B)
```
Comment (tb65536) [inline Mathlib/FieldTheory/Galois/IsGaloisGroup.lean]:
```suggestion
  rw [← fixingSubgroup_range_algebraMap' G K L H (FractionRing B)]
```

File: Mathlib/RingTheory/Invariant/Basic.lean [hunk 3]
```diff
@@ -529,3 +529,34 @@ lemma Ideal.Quotient.finite_of_isInvariant [P.IsMaximal] [Q.IsMaximal]
...
+  obtain ⟨b, a, ha, hb⟩ := (Algebra.IsAlgebraic.isAlgebraic (R := A) y).exists_smul_eq_mul x hy
+  rw [mul_comm, Algebra.smul_def, mul_comm] at hb
+  replace ha : (algebraMap B L) (algebraMap A B a) ≠ 0 := by simpa [← hc]
+  have hxy : algebraMap B L x / algebraMap B L y =
+    algebraMap B L b / algebraMap B L (algebraMap A B a) := by
+    rw [div_eq_div_iff hy' ha, ← map_mul, hb, map_mul]
+  obtain ⟨b, rfl⟩ := hAB.isInvariant b
+    (by simpa [ha, hxy, smul_div₀', ← algebraMap.coe_smul'] using h)
+  use algebraMap A K b / algebraMap A K a
+  simp [hc, div_eq_div_iff ha hy', ← map_mul, ← map_mul, hb]
```
Comment (tb65536) [inline Mathlib/RingTheory/Invariant/Basic.lean]:
```suggestion
  rw [hxy, map_div₀, hc, hc]
```

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer merge

**Comment by tb65536** [comment]
(Whoops, that should be a delegate, not a merge)

**Comment by riccardobrasca** [comment]
Thanks!

bors d+
